US06329391B1
7-[3-Amino-4-methylpiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid hydrochloride salt
A quantity of 0.20 g of 7-[3-amino-4-methylpiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid is suspended in 1.0 mL of ethanol. Its pH is adjusted to 2 with hydrogen chloride to obtain the desired product after the evaporation of solvent.

reactant | 7-[3-amino-4-methylpiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid | 0.20 g | NC1CN(CCC1C)C1=CC=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O | C20H25N3O4
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | 7-[3-Amino-4-methylpiperidinyl]-1-cyclopropyl-1,4-dihydro-8-methoxy-4-oxo-quinoline-3-carboxylic acid hydrochloride salt | Cl.NC1CN(CCC1C)C1=CC=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O | InChI=1S/C20H25N3O4.ClH/c1-11-7-8-22(10-15(11)21)16-6-5-13-17(19(16)27-2)23(12-3-4-12)9-14(18(13)24)20(25)26;/h5-6,9,11-12,15H,3-4,7-8,10,21H2,1-2H3,(H,25,26);1H
